US04051148
50G of benzylmercapto terephthalic acid dimethyl ester is suspended in a solution of 750 ml of methanol to which is added 200 ml of a solution of 15 g of sodium carbonate monohydrate in 350 ml of water. The reaction mixture is refluxed for 30 minutes, cooled and diluted with 750 ml of water. The solid is filtered and resuspended in 375 ml of methanol and 100 ml of the above sodium carbonate solution, refluxed 30 minutes, cooled, 375 ml of water is added thereto, filtered and the damp cake resuspended in 187 ml of methanol. The remaining 50 ml of the sodium carbonate solution is then added and the reflux process repeated. The combined aqueous filtrates are acidified with 50 ml of conentrated hydrochloric acid yielding a precipitate which is filtered, washed with water and the damp cake is dissolved in ethyl acetate. The ethyl acetate solution is washed with water, dried over sodium sulfate and evaporated to yield 46 g of crude 3-benzylmercapto-4-carbomethoxy benzoic acid, which is used without further purification in part D.

reactant | benzylmercapto terephthalic acid dimethyl ester | COC(C1=C(C=C(C(=O)OC)C=C1)SCC1=CC=CC=C1)=O | C17H16O4S
reactant | methanol | 750 ml | CO | CH4O
reactant | sodium carbonate monohydrate | 15 g | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 350 ml | O | H2O
solvent | water | 750 ml | O | H2O
product | 3-benzylmercapto-4-carbomethoxy benzoic acid | 46 g | C(C1=CC=CC=C1)SC=1C=C(C(=O)O)C=CC1C(=O)OC | C16H14O4S
